US09255093B2
A solution of 2-allyl-1-chloro-3-methyl-5-nitrobenzene (450 mg, 2.13 mmol) in 43 mL of MeOH was put on an H-cube with a Ra—Ni cartridge, the reaction was at room temperature and under 2 atm of H2 for 3 hr. The reaction was concentrated under reduced pressure. The residue was purified by silica gel flash chromatography, 100% Heptane-15% Ethyl Acetate/85% Heptane, to give 3-chloro-5-methyl-4-propylaniline (212 mg). LCMS retention time=1.34 minutes (LC method 1); MS (m+1)=184.1. 1H NMR (400 MHz, DMSO-d6) δ 0.92 (t, J=7.3 Hz, 3H), 1.34-1.48 (m, 2H), 2.16 (s, 3H), 2.48-2.52 (m, 2H), 5.03 (s, 2H), 6.32 (d, J=1.8 Hz, 1H), 6.43 (d, J=2.2 Hz, 1H).

reactant | 2-allyl-1-chloro-3-methyl-5-nitrobenzene | 2.13 mmol, 450 mg | C(C=C)C1=C(C=C(C=C1C)[N+](=O)[O-])Cl | C10H10ClNO2
solvent | MeOH | 43 mL | CO | CH4O
catalyst | Ra—Ni | [Ni] | Ni
product | 3-chloro-5-methyl-4-propylaniline | 212 mg | ClC=1C=C(N)C=C(C1CCC)C | C10H14ClN
